US07144908B2
iv) (1R)-2-(Benzylamino)-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol
Tetrabutylammonium fluoride (395 ml, 1M in THF) was added dropwise to a stirred solution of N-benzyl-N-{(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-[(triethylsilyl)oxy]ethyl}amine (129.9 g) in THF (900 ml) at 5° C. Upon complete addition the reaction mixture was maintained at this temperature for 15 min before water (600 ml) was added. The resulting slurry was diluted with diethyl ether (500 ml) and filtered. The filtrate was washed with water (2×500 ml) and brine (500 ml) before being dried over anhydrous Na2SO4. The resulting mixture was filtered and concentrated under reduced pressure to give a solid which was triturated with diisopropyl ether to give the title compound (70 g) as a solid, δ (CDCl3) 7.31 (5H, m), 7.09 (1H, d, J 8 Hz), 6.98 (1H, s), 6.77 (1H, d J 8 Hz), 4.82 (2H, s), 4.63 (1H, m), 3.83 (2H, d, J 4 Hz), 2.80 (2H, m), 1.52 (6H, s).

reactant | Tetrabutylammonium fluoride | 1M, 395 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-benzyl-N-{(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-[(triethylsilyl)oxy]ethyl}amine | 129.9 g | C(C1=CC=CC=C1)NC[C@H](O[Si](CC)(CC)CC)C1=CC2=C(OC(OC2)(C)C)C=C1 | C25H37NO3Si
reactant | water | 600 ml | O | H2O
solvent | THF | 900 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | (1R)-2-(Benzylamino)-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 70 g | C(C1=CC=CC=C1)NC[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C19H23NO3
